US08106066B2
Ethyl 6-aminobenzo[d]isoxazole-3-carboxylate (2.43 mmol) was diluted with a solution of sulfuric acid (2.5 mL) in water (2.5 mL) and the resulting mixture was maintained at rt for 30 min. A solution of sodium nitrite (2.67 mmol) in water (2.5 ml) was added dropwise at 0° C. and the resulting mixture was maintained for 30 min at 0° C. This aqueous solution was added to a cold (0° C.) solution of copper (II) nitrate (149 mmol) in water (80 mL) and the reaction mixture was allowed to warm to rt. After 5 min., copper (I) oxide (2.78 mmol) was added to the mixture and the reaction mixture was maintained for 1 h at rt. The reaction mixture was extracted with ethyl acetate (3×100 mL) and the combined organic layers were dried (magnesium sulfate) and concentrated to provide crude ethyl 6-hydroxybenzo[d]isoxazole-3-carboxylate in 99% yield as a brown oil.

reactant | Ethyl 6-aminobenzo[d]isoxazole-3-carboxylate | 2.43 mmol | NC1=CC2=C(C(=NO2)C(=O)OCC)C=C1 | C10H10N2O3
reactant | sodium nitrite | 2.67 mmol | N(=O)[O-].[Na+]
solvent | sulfuric acid | 2.5 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 2.5 mL | O | H2O
solvent | water | 2.5 ml | O | H2O
solvent | water | 80 mL | O | H2O
catalyst | copper (II) nitrate | 149 mmol | [N+](=O)([O-])[O-].[Cu+2].[N+](=O)([O-])[O-]
catalyst | copper (I) oxide | 2.78 mmol | [Cu-]=O
product | ethyl 6-hydroxybenzo[d]isoxazole-3-carboxylate | 99% yield | OC1=CC2=C(C(=NO2)C(=O)OCC)C=C1 | C10H9NO4
